US06180651B2
To a solution of 25 g of 3,4-difluorobenzonitrile in 100 ml of N,N-dimethylformamide is added 25 g of potassium carbonate and 22.3 g of benzylmercaptan. The mixture is stirred for 3 hours at room temperature and water is added. The crystals are filtered off, washed with water and pentane and dried to give 41 g of 4-benzylthio-3-fluorobenzonitrile in the form of crystals melting at 87° C.

reactant | 3,4-difluorobenzonitrile | 25 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzylmercaptan | 22.3 g | C(C1=CC=CC=C1)S | C7H8S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-benzylthio-3-fluorobenzonitrile | 41 g | C(C1=CC=CC=C1)SC1=C(C=C(C#N)C=C1)F | C14H10FNS
